US08293772B2
(5-Bromo-2-methoxy-phenyl)-(2-chloro-4-nitro-phenyl)-methanone (compound 423)
A mixture of 1-bromo-4-methoxy-benzene (7.48 g, 40 mmol), 2-chloro-4-nitro-benzoyl chloride (8.79 g, 40 mmol) and bismuth triflate (1.31 g, 2.0 mmol) under an atmosphere of argon was stirred at RT for 20 min. The temperature was raised to 80° C. and stirring was continued for 90 min. DCM was added to the reaction mixture and the organic phase was washed with aq. HCl (1 N, 0.5 mL) and NaHCO3 (aq.). The organic phase was dried (MgSO4), filtered and concentrated in vacuo to give the crude product. The crude product was crystallised from a mixture of DCM and pentane to afford the title compound as yellow crystals

reactant | 1-bromo-4-methoxy-benzene | 40 mmol, 7.48 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 2-chloro-4-nitro-benzoyl chloride | 40 mmol, 8.79 g | ClC1=C(C(=O)Cl)C=CC(=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | bismuth triflate | 2.0 mmol, 1.31 g | [O-]S(=O)(=O)C(F)(F)F.[Bi+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (5-Bromo-2-methoxy-phenyl)-(2-chloro-4-nitro-phenyl)-methanone | BrC=1C=CC(=C(C1)C(=O)C1=C(C=C(C=C1)[N+](=O)[O-])Cl)OC | C14H9BrClNO4
